US08426445B2
a 500-mL, one-necked, round-bottom flask equipped with a magnetic stirrer was charged with 1,6-hexanediol (6.00 g), potassium tert-butoxide (5.413 g) at room temperature. The reaction mixture was stirred for one hour, and then 1-iodopropane (8.63 g) was added. The reaction mixture was heated to 70-80° C. and stirred overnight. The progress of reaction was monitored by TLC (Note 1). After completion of the reaction, water was added to the reaction mixture, and extracted with ethyl acetate (2×100 mL). The combined organic layers were concentrated in vacuo to get the crude product. The crude product was dissolved in dichloromethane and washed with water, and then brine, dried over sodium sulfate. The organic layer was concentrated in vacuo to get the crude product. The crude product was purified by column chromatography using 230-400 mesh silica gel. A solvent gradient of ethyl acetate in hexanes (10-45%) was used to elute the product from the column. All fractions containing the desired pure product were combined and concentrated in vacuo to give pure 6-propyloxy-1-hexanol (lot D-1029-048, 1.9 g, 25%) Completion of the reaction was monitored by thin layer chromatography (TLC); (eluent: 60% ethyl acetate in hexanes).

reactant | 1,6-hexanediol | 6.00 g | C(CCCCCO)O | C6H14O2
reactant | potassium tert-butoxide | 5.413 g | CC(C)([O-])C.[K+]
reactant | 1-iodopropane | 8.63 g | ICCC | C3H7I
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-propyloxy-1-hexanol | 1.9 g, 25% | C(CC)OCCCCCCO | C9H20O2
